US04096267
Step A: (1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetonitrile
2-Methyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone (4.61 g., 0.015 mole), chloroacetonitrile (1.13 g., 0.015 mole), potassium carbonate (2.08 g., 0.015 mole), potassium iodide (0.25 g., 0.0015 mole) and acetone (75 ml.) are heated at reflux for 23 hours. The reaction mixture is cooled to 25° C. and concentrated to dryness in vacuo to give an oily residue which on trituration with water gives 5.12 g. of (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetonitrile which melts at 163°-165° C. on crystallization from cyclohexane:benzene, 5:1.

reactant | 2-Methyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone | 0.015 mole, 4.61 g | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C1=CC=CC=C1 | C16H12Cl2O2
reactant | chloroacetonitrile | 0.015 mole, 1.13 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 0.015 mole, 2.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.0015 mole, 0.25 g | [I-].[K+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | (1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetonitrile | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC#N)(C1=CC=CC=C1)C | C18H13Cl2NO2
